US07176310B1
1. 2-(2-Hydroxyethylsulfanyl)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
To a solution of 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (39 mg, 0.14 mmol) in THF (1 mL) was added β-mercaptoethanol (20 μL, 0.28 mmol) followed by DBU (43 μL, 0.28 mmol). After 15 min the reaction was quenched with 40 mL 1% HCl, resulting in the formation of solids. The solids were collected by filtration and washed with water. The filtrate was extracted with dichloromethane to afford a white solid after concentration. These were combined with the solids isolated from the filtration and passed through a plug of SiO2 using 60% ethyl acetate/hexane to afford a white solid. After trituration with dichloromethane/hexane, 19.3 mg (47% yield) of titled product was obtained. API-MS m/z 294 (MH+), 292 (M−H)−.

reactant | 2-methanesulfinylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.14 mmol, 39 mg | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)S(=O)C | C12H10FN3O2S
reactant | β-mercaptoethanol | 0.28 mmol, 20 μL | SCCO | C2H6OS
reactant | DBU | 0.28 mmol, 43 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | dichloromethane hexane | ClCCl.CCCCCC
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(2-Hydroxyethylsulfanyl)pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 19.3 mg, 47% yield | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)SCCO | C13H12FN3O2S
